US08431575B2
To a solution of 4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-4-trifluoromethyl-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester (0.294 mmol, 0.17 g) in DCM (1 mL) was added 4 N HCl in dioxane (0.5 mL) and the reaction was stirred for 1 hour. The solvents were removed with reduced pressure and the salt was triturated with diethyl ether and filtered to give 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(piperidin-4-yloxy)-5-trifluoromethyl-pyridazine dihydrochloride (0.12 g).

reactant | 4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-4-trifluoromethyl-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 0.294 mmol, 0.17 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1C(F)(F)F)C1=CC=C(C=C1)OC1CCCCC1)CCCC | C31H42F3N3O4
reactant | HCl | 4 N | Cl | ClH
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(piperidin-4-yloxy)-5-trifluoromethyl-pyridazine dihydrochloride | 0.12 g | Cl.Cl.C(CCC)C=1N=NC(=C(C1C1=CC=C(C=C1)OC1CCCCC1)C(F)(F)F)OC1CCNCC1 | InChI=1S/C26H34F3N3O2.2ClH/c1-2-3-9-22-23(18-10-12-20(13-11-18)33-19-7-5-4-6-8-19)24(26(27,28)29)25(32-31-22)34-21-14-16-30-17-15-21;;/h10-13,19,21,30H,2-9,14-17H2,1H3;2*1H
